US03983246
By the method of Example I-B, 43.6 g of methoxybenzaldoxime in 510 ml of ether was treated with 21.0 g of nitrosyl chloride. After removal of the ether, the product oil was triturated with benzene-hexane and crystallized from benzene-hexane. The filtrate from the crystallization was concentrated to about one-third of its original volume and placed in the refrigerator. The solid which formed and the first crop of crystals were combined and recrystallized from hexane-ether to give 13.2 g of 4-methoxybenzohydroximoyl chloride, m.p. 87.5°-89.5°. The ir spectrum was consistent with the assigned structure.

reactant | methoxybenzaldoxime | 43.6 g | COC1=C(C=NO)C=CC=C1 | C8H9NO2
reactant | nitrosyl chloride | 21.0 g | N(=O)Cl | ClNO
reactant | ether | 510 ml | CCOCC | C4H10O
product | 4-methoxybenzohydroximoyl chloride | 13.2 g | COC1=CC=C(C(=NO)Cl)C=C1 | C8H8ClNO2
